US05025025
To a solution of 0.363 g (1.5 mmol) of ethyl m-(3-pyridyl)phenylacetate in 5.4 mL dry dimethylformamide at 5° C. is added 1.56 mL of a 1M solution of sodium hexamethyldisilazide in tetrahydrofuran. The organic layer is evaporated to dryness and resulting orange colored solution is stirred for 10 minutes and 0.54 mL (4.7 mmol) 1-bromo-4-chlorobutane is added rapidly. The reaction is stirred at 5° C. for 2 hours and then poured into water and extracted thrice with ether. The organic layer is evaporated to dryness and the resulting oil is purified by flash chromatography using 1:1 ether and hexane to obtain ethyl 6-chloro-2-[m-(3-pyridyl)phenyl]hexanoate; IR (CH2Cl2): 1728, 1278, 1184, 1165, 1023 cm-1.

reactant | ethyl m-(3-pyridyl)phenylacetate | 1.5 mmol, 0.363 g | N1=CC(=CC=C1)C=1C=C(C=CC1)CC(=O)OCC | C15H15NO2
reactant | sodium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Na+]
reactant | 1-bromo-4-chlorobutane | 4.7 mmol, 0.54 mL | BrCCCCCl | C4H8BrCl
reactant | water | O | H2O
solvent | dimethylformamide | 5.4 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | ethyl 6-chloro-2-[m-(3-pyridyl)phenyl]hexanoate | ClCCCCC(C(=O)OCC)C1=CC(=CC=C1)C=1C=NC=CC1 | C19H22ClNO2
